US08258144B2
N4-cyclopropyl-N2-(1H-indazol-6-yl)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A mixture of 2-chloro-N-cyclopropyl-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (51 mg, 0.12 mmol), 6-aminoindazole (31 mg, 0.23 mmol) and TMSCl (0.040 mL, 0.32 mmol) in nBuOH (2 mL) was stirred at 116° C. for 18 h. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (12 mg). MS 383.2 (M+H); UV 204.9, 250.9, 307.9 nm.

reactant | 2-chloro-N-cyclopropyl-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.12 mmol, 51 mg | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C21H18ClN5O2S
reactant | 6-aminoindazole | 0.23 mmol, 31 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | TMSCl | 0.32 mmol, 0.040 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | N4-cyclopropyl-N2-(1H-indazol-6-yl)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 12 mg | C1(CC1)NC=1C2=C(N=C(N1)NC1=CC=C3C=NNC3=C1)NC=C2C2=CC=NC=C2 | C21H18N8
